US05084463
Step 1) Preparation of N-[3-(4-Nitrophenoxy)propyl]methylamine Hydrochloride
1-(4-Nitrophenoxy)-3-iodopropane (4.76 g, 15.50 mmol) was added portionwise to a stirring solution of methylamine (33%) in ethanol (100 mL) at 0° C. The mixture stirred at room temperature for 4 hours and was then concentrated. The residue was partitioned between ethyl acetate/10% aqueous K2CO3. The organic phase was dried, decolorized and concentrated to afford an oil which was treated with ethanolic HCl. Yield: 2.5 g of hydrochloride salt which was used without purification.

reactant | 1-(4-Nitrophenoxy)-3-iodopropane | 15.50 mmol, 4.76 g | [N+](=O)([O-])C1=CC=C(OCCCI)C=C1 | C9H10INO3
reactant | methylamine | CN | CH5N
reactant | HCl | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-[3-(4-Nitrophenoxy)propyl]methylamine Hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(OCCCNC)C=C1 | InChI=1S/C10H14N2O3.ClH/c1-11-7-2-8-15-10-5-3-9(4-6-10)12(13)14;/h3-6,11H,2,7-8H2,1H3;1H
